US04122083
1,2,3,4-Tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole
2-Acetyl-1,2,3,4-tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole (13.5 g., 0.05 mole) is dissolved in 100 ml. of absolute ethanol. Sodium hydroxide (3 ml. of 50% aqueous sodium hydroxide) is added and the reaction mixture is digested on the steam cone for one hour. It is then concentrated in vacuo and the residue is washed with water. The white crystalline material is filtered and dried to yield 7.3 g. of 1,2,3,4-tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole, which is recrystallized from methanol-chloroform to yield 4.3 g. of analytical sample, m.p. 238°-243°.

reactant | 2-Acetyl-1,2,3,4-tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole | 0.05 mole, 13.5 g | C(C)(=O)N1CC2=C(N3C(=NC4=C3C=CC=C4)S2)CC1 | C14H13N3OS
reactant | Sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydropyrido[4',3':4,5]thiazolo[3,2-a]benzimidazole | C1NCCC2=C1SC1=NC3=C(N12)C=CC=C3 | C12H11N3S
